US06444709B1
3-Methyl-5-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydronaphthalen-2-ylselenyl)pent-2-en-4-ynoic Acid
In a manner similar to that of Example 2, by reaction of 600 mg of ethyl 3-methyl-5-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydronaphthalen-2-ylselenyl)-pent-2-en-4-ynoate with 600 mg of LiOH in 15 ml of THF, 410 mg (73%) of a yellow powder are obtained. m.p.: 175° C.

reactant | ethyl 3-methyl-5-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydronaphthalen-2-ylselenyl)-pent-2-en-4-ynoate | 600 mg | CC(=CC(=O)OCC)C#C[Se]C1=CC=2C(CCC(C2C=C1C)(C)C)(C)C | C23H30O2Se
reactant | LiOH | 600 mg | [Li+].[OH-]
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 3-Methyl-5-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydronaphthalen-2-ylselenyl)pent-2-en-4-ynoic Acid | CC(=CC(=O)O)C#C[Se]C1=CC=2C(CCC(C2C=C1C)(C)C)(C)C | C21H26O2Se
